US07271262B2
1-{3-[4-Amino-7-(1-methanesulfonyl-piperidin-4-yl)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl]-phenyl}-3-(3,5-dichloro-phenyl)-urea
A solution of 1-[3-(4-Amino-7-piperidin-4-yl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-phenyl]-3-(3,5-dichloro-phenyl)-urea (100 mg, 0.19 mmol) and methanesulfonylchloride (22 mg, 0.19 mmol) in DMF/CH2Cl2 (2/3, 5 mL) was stirred in a sealed tube for 1.5 hours at room temperature. The reaction mixture concentrated in vacuo. Purification by reverse phase preparative HPLC (HPLC method 2) provided the title compound as a white solid (21.8 mg, 19%). MS: 603.5 (MH+); HPLC Rf: 2.3 min. (HPLC method 2); HPLC purity: 100%.

reactant | 1-[3-(4-Amino-7-piperidin-4-yl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-phenyl]-3-(3,5-dichloro-phenyl)-urea | 0.19 mmol, 100 mg | NC=1C2=C(N=CN1)N(C=C2C(=O)C=2C=C(C=CC2)NC(=O)NC2=CC(=CC(=C2)Cl)Cl)C2CCNCC2 | C25H23Cl2N7O2
reactant | methanesulfonylchloride | 0.19 mmol, 22 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF CH2Cl2 | 5 mL | CN(C)C=O.C(Cl)Cl
product | 1-{3-[4-Amino-7-(1-methanesulfonyl-piperidin-4-yl)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl]-phenyl}-3-(3,5-dichloro-phenyl)-urea | 21.8 mg, 19% | NC=1C2=C(N=CN1)N(C=C2C(=O)C=2C=C(C=CC2)NC(=O)NC2=CC(=CC(=C2)Cl)Cl)C2CCN(CC2)S(=O)(=O)C | C26H25Cl2N7O4S
